US04416683
A 16.5 Kg portion of methyl 2-ethylbutyrate was reacted with 60 Kg of n-butyl lithium, diisopropylamine, and 19.1 Kg of methyl iodide to provide 17.4 Kg of methyl 2-ethyl-2-methylbutyrate. A 7.5 Kg portion of the ester thus formed was reacted with 3.25 Kg of acetonitrile and 5.03 g of sodium hydride in 33 liters of tetrahydrofuran to provide 1-ethyl-1-methylpropyl cyanomethyl ketone. The ketone thus formed was reacted with 4.35 Kg of hydroxylamine hydrochloride and 2.54 Kg of sodium hydroxide in 44 liters of water to provide 5.65 Kg of 5-amino-3-(1-ethyl-1-methylpropyl)isoxazole.

reactant | methyl 2-ethylbutyrate | C(C)C(C(=O)OC)CC | C7H14O2
reactant | n-butyl lithium | 60 Kg | C(CCC)[Li]
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | methyl iodide | 19.1 Kg | CI | CH3I
product | methyl 2-ethyl-2-methylbutyrate | 17.4 Kg | C(C)C(C(=O)OC)(CC)C | C8H16O2
